US07781426B2
Potassium t-butoxide (55.3 mg, 0.493 mmol) was added to a stirred solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one (180.2 mg, 0.575 mmol) in dry DMF (5 mL) at room temperature under N2. The solution was stirred for 5 min at room temperature. A solution of ethyl (trans-4-{[[2-(chloromethyl)pyridin-3-yl](ethyl)amino]methyl}cyclohexyl)acetate (145.0 mg, 0.411 mmol) in dry DMF (2 mL) was added via cannula and the reaction was stirred at room temperature for 3 h. Saturated aqueous NH4Cl (5 mL) and water (5 mL) were added and the mixture was extracted with EtOAc (3×20 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 25×160 mm, 0-50% EtOAc in hexanes gradient) to afford ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)pyridin-3-yl](ethyl)amino]methyl}cyclohexyl)acetate. Rf=0.77 (50% EtOAc/hexanes). LCMS calc.=630.3; found=630.3 (M+1)+. 1H NMR (600 MHz, CDCl3): i 8.31 (dd, J=1.3, 4.6 Hz, 1 H); 7.85 (s, 1 H); 7.80 (s, 2 H); 7.43 (dd, J=1.3, 8.1 Hz, 1 H); 7.17 (dd, J=4.7, 8.1 Hz, 1 H); 5.78 (d, J=8.5 Hz, 1 H); 4.91 (d, J=16.7 Hz, 1 H); 4.45 (d, J=16-7 Hz, 1 H); 4.36-4.30 (m, 1 H); 4.06 (q, J=7.1 Hz, 2 H); 2.96-2.90 (m, 2 H); 2.82-2.74 (m, 2 H); 2.11 (d, J=6.8 Hz, 2 H); 1.80-1.75 (m, 2 H); 1.73-1.67 (m, 3 H); 1.30 (m, 1 H); 1.20 (t, J=7.1 Hz, 3 H); 0.96 (t, J=7.0 Hz, 3H); 0.93-0.77 (m, 4 H); 0.66 (d, J=6.7 Hz, 3 H).

reactant | Potassium t-butoxide | 0.493 mmol, 55.3 mg | CC(C)([O-])C.[K+]
reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | 0.575 mmol, 180.2 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](NC(O1)=O)C)(F)F | C12H9F6NO2
reactant | ethyl (trans-4-{[[2-(chloromethyl)pyridin-3-yl](ethyl)amino]methyl}cyclohexyl)acetate | 0.411 mmol, 145.0 mg | ClCC1=NC=CC=C1N(CC)C[C@@H]1CC[C@H](CC1)CC(=O)OCC | C19H29ClN2O2
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
product | ethyl (trans-4-{[[2-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)pyridin-3-yl](ethyl)amino]methyl}cyclohexyl)acetate | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC=CC=C1N(CC)C[C@@H]1CC[C@H](CC1)CC(=O)OCC)C)(F)F | C31H37F6N3O4
